US20010019995A1
A solution of 2-octylcycloprop-2-ene-1-carboxylic acid (350 mg, 1.8 mmol) in ether was treated with 0.45 g (3.5 mmol) of oxalyl chloride at room temperature. The reaction mixture was stirred for one hour then stripped to give 330 mg of 2-octylcycloprop-2-ene-1-carbonyl chloride.

reactant | 2-octylcycloprop-2-ene-1-carboxylic acid | 1.8 mmol, 350 mg | C(CCCCCCC)C=1C(C1)C(=O)O | C12H20O2
reactant | oxalyl chloride | 3.5 mmol, 0.45 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ether | CCOCC | C4H10O
product | 2-octylcycloprop-2-ene-1-carbonyl chloride | 330 mg | C(CCCCCCC)C=1C(C1)C(=O)Cl | C12H19ClO
